US04886826
A solution of 1-ethyl-4-(5-hexenyl)-2-oxocyclohexaneacetic acid methyl ester isomer B (4.24 g, 15.14 mmol) and 2-ethylphenylhydrazine (2.27 g, 16.7 mmol) in 30.3 mL of toluene was refluxed under nitrogen for 22 hours with azeotropic removal of water. The toluene was then removed in vacuo and replaced with 10.8 mL of acetic acid. The solution was treated with borontrifluoride etherate (2.79 g, 19.7 mmol, 2.42 mL) and refluxed for 20 minutes under nitrogen. The reaction mixture was poured into 120 mL of water and extracted with 4×80 mL of 2.5N NaOH. Drying (MgSO4) and flash chromatography (75 mm diameter column, 8% ethyl acetate in petroleum ether eluent) afforded 3.72 g (9.73 mmol, 64%) of 1,8-diethyl-4-(5-hexenyl)-2,3,4,9-tetrahydro-1H-carbazole-1-acetic acid methyl ester. Of this, 3.68 g (9.66 mmol) were refluxed in a solution of ethanol (30.9 mL) and 2.5N NaOH (7.7 mL) for 45 minutes under nitrogen. The ethanol was then removed in vacuo and the residue was suspended in 120 mL of 1N HCl. It was extracted with 4×40 mL of ether and the pooled extracts were dried over MgSO4. Flash chromatography (50 mm diameter column, 10% ethyl acetate in petroleum ether eluent, 2% H3PO4 in MeOH treated silica gel) afforded 3.41 g (9.18 mmol, 95%) of a light yellow solid which was recrystallized from 85:15 petroleum ether:benzene. This resulted in 1.98 g of a white powder which were dried at 84° C. for 31 hours followed by recrystallization from 85:15 petroleum ether:benzene once again. Drying at 84° C. for 24 hours resulted in 1.41 g of a white powder, m.p. 96°-97° C.

reactant | 1-ethyl-4-(5-hexenyl)-2-oxocyclohexaneacetic acid methyl ester | COC(CC1(C(CC(CC1)CCCCC=C)=O)CC)=O | C17H28O3
reactant | 2-ethylphenylhydrazine | 16.7 mmol, 2.27 g | C(C)C1=C(C=CC=C1)NN | C8H12N2
reactant | water | O | H2O
reactant | borontrifluoride etherate | 19.7 mmol, 2.42 mL, 2.79 g | B(F)(F)F.CCOCC
reactant | water | 120 mL | O | H2O
solvent | toluene | 30.3 mL | C1(=CC=CC=C1)C | C7H8
product | 1,8-diethyl-4-(5-hexenyl)-2,3,4,9-tetrahydro-1H-carbazole-1-acetic acid methyl ester | 9.73 mmol, 3.72 g, 64% | COC(CC1(CCC(C=2C3=CC=CC(=C3NC12)CC)CCCCC=C)CC)=O | C25H35NO2
